US07745635B1
1-ethyl-4-amino-1,2,4-triazolium bromide
A 500 ml round bottom flask equipped with an overhead stirrer was charged with 10.00 grams of 4-amino-1,2,4-triazole and 200 ml of acetonitrile. Ethyl bromide, 45 ml, 65.0 grams, was added to the vigorously stirred acetonitrile reaction mixture. The reaction was stirred for 8 days at ambient temperature at which time, thin layer chromatography showed that all of the 4-amino-1,2,4-triazole had been consumed. The resultant solution was then rotary evaporated down to leave a colorless oil which slowly crystallized. Solid material was heated to 60 C. for 5 hours under high vacuum, whereupon it melted and lost the remaining solvent and resolidified. Crystalline 1-ethyl-4-amino-1,2,4-triazolium bromide was recovered in essentially quantitative yield and high purity, 22.94 g, 117 mmoles. Melting point: 63-67° C.; DSC onset: 150° C.

reactant | 4-amino-1,2,4-triazole | 10.00 grams | NN1C=NN=C1 | C2H4N4
reactant | Ethyl bromide | C(C)Br | C2H5Br
solvent | acetonitrile | C(C)#N | C2H3N
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 1-ethyl-4-amino-1,2,4-triazolium bromide | quantitative yield | [Br-].C(C)[N+]=1N=CN(C1)N | InChI=1S/C4H9N4.BrH/c1-2-8-4-7(5)3-6-8;/h3-4H,2,5H2,1H3;1H/q+1;/p-1
